US06593058B1
Synthesis of TFE/Norbornene/tert-Butyl Acrylate Terpolymers=P(TFE/NB/tBA)
The procedure of Example 2 was followed using 33.9 g (0.35 mol) norbornene, 6.4 g (0.05 mol) tert-butyl acrylate, 100 mL CFC-113, 1.5 g Perkadox® 16N and 60 g (0.60 mol) of tetrafluoroethylene. The product mixture was a clear liquid which was added to excess methanol to precipitate the polymer. There was isolated 27.8 g (28%) of white polymer; GPC (MEK) Mw 11100, Mn 5600, Mw/Mn 1.99; Inh. Visc. 0.0462 (MEK); Tg 130° C. Anal. Found: C, 60.39; H, 6.72; F, 28.00. 13C NMR (δ, TCB) 166 to 178 (C═O), 112 to 124 (CF2), 80 (CH), 22 to 54 (remaining carbons). From integrations of appropriate resonances, the polymer composition was found to be 36 mol % TFE, 17 mol % tert-butyl acrylate and 47 mol % norbornene.

reactant | tert-butyl acrylate | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | norbornene | C12C=CC(CC1)C2 | C7H10
solvent | MEK | CCC(=O)C | C4H8O
product | Norbornene tert-Butyl Acrylate | C12C=CC(CC1)C2.C(C=C)(=O)OC(C)(C)C | InChI=1S/C7H12O2.C7H10/c1-5-6(8)9-7(2,3)4;1-2-7-4-3-6(1)5-7/h5H,1H2,2-4H3;1-2,6-7H,3-5H2
